* source TEST
R_R7         0 N18024  10k  
C_C3         0 N14110  470u  
R_R8         N18024 N18516  20k  
X_SIOV1         N13429 N02838 S10K275/SIE PARAMS: TOL=0
C_C5         N20482 N20743  100u  
C_C4         0 N14650  100u  
R_R2         0 N13429  40  
R_R1         N02800 N02838  560k  
R_R9         0 N14110  40k  
C_C1         N02800 N02838  7.2u  
R_R10         N17811 0  40k  
V_V2         N16709 0  
+SIN 0 220 50 0 0 0
R_R11         N17811 N20367  200  
R_R4         N14899 N14884  9.1k  
R_R5         0 N16709  10k  
R_R12         N20743 N20763  10k  
R_R3         0 N14899  24k  
D_D1         0 N02838 D1N1102 
D_D2         N02838 N13510 D1N1102 
V_V1         N02800 0  
+SIN 0 220 50 0 0 0
D_D3         0 N13429 D1N1102 
D_D4         N13429 N13510 D1N1102 
R_R6         N16709 N17811  10k  
C_C2         0 N13510  1000u  
